US07005432B2
5-(3-Difluoromethyl-5-fluoro-phenyl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride
The title compound, MS: m/e=319.3 (M+H+), was prepared from 2-(3-difluoromethyl-5-fluoro-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane and 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine.

reactant | 2-(3-difluoromethyl-5-fluoro-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | FC(C=1C=C(C=C(C1)F)B1OC(C(O1)(C)C)(C)C)F | C13H16BF3O2
reactant | 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine | ClC=1C=C(N=NC1)CN1C(=NC=C1)C | C9H9ClN4
product | 5-(3-Difluoromethyl-5-fluoro-phenyl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride | Cl.FC(C=1C=C(C=C(C1)F)C=1C=C(N=NC1)CN1C(=NC=C1)C)F | InChI=1S/C16H13F3N4.ClH/c1-10-20-2-3-23(10)9-15-7-13(8-21-22-15)11-4-12(16(18)19)6-14(17)5-11;/h2-8,16H,9H2,1H3;1H
